US08383647B2
methyl 2-fluoro-4-hydroxybenzoate
A solution of 2-fluoro-4-hydroxybenzoic acid (50.0 g) and concentrated sulfuric acid (10 mL) in methanol (700 mL) was stirred at 90° C. for 16 hr with heating. The reaction solution was concentrated, and the resulting colorless crystals were washed with water, and dried to give the title compound (51 g, yield 94%) as colorless crystals.

reactant | 2-fluoro-4-hydroxybenzoic acid | 50.0 g | FC1=C(C(=O)O)C=CC(=C1)O | C7H5FO3
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 700 mL | CO | CH4O
product | methyl 2-fluoro-4-hydroxybenzoate | 51 g, yield 94% | FC1=C(C(=O)OC)C=CC(=C1)O | C8H7FO3
